* source LAB07
R_R1         N14571 N14576  3.3k TC=0,0 
R_R2         0 N14576  1k TC=0,0 
R_R3         N14576 N14580  4.7k TC=0,0 
V_V1         N14580 0 5Vdc
V_V2         N14571 0 10Vdc
