* source LAB01
V_V1         N01079 0 5Vdc
R_R1         N01079 N01086  3.3k TC=0,0 
R_R2         N01086 N01090  4.7k TC=0,0 
R_R3         0 N01090  5.6k TC=0,0 
